data/oMe_Silver.jsonl
{"reaction_id": "NG-006_1-CCCCCC","name": "Alkyne zipper reaction","level": "easy","reactants_smiles": ["CCCCCCC#CCC"],"products_smiles": ["CCCCCCCCCC#C"],"conditions": "KH, 3-Aminopropylamine","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCCCCC#C[CH-]C","rationale": "KH deprotonates the acidic propargylic position due to the high acidity of sp-hybridized C–H bonds, generating a resonance-stabilized acetylide anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCCCCC=C=CC","rationale": "The acetylide anion abstracts a proton from an adjacent carbon, forming an allene intermediate via base-promoted rearrangement favored by strong basic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCCCCCC#CC","rationale": "Deprotonation at the terminal position of the allene occurs because the adjacent cumulated double bonds increase acidity through inductive and hyperconjugative effects."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCCCCCC=C=C","rationale": "Proton transfer regenerates an allene isomer, allowing migration of the triple bond toward the terminal position through reversible tautomerization."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCCCCCCC#[C-]","rationale": "Deprotonation at the propargylic position of the shifted alkyne is favored due to sp-hybridization, enabling final migration toward the thermodynamically stable terminal alkyne."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCCCCCCCC#C","rationale": "Protonation of the acetylide anion yields the terminal alkyne, favored by lower internal strain and greater stability under basic conditions."}],"description": "Strong base KH deprotonates terminal and internal positions sequentially, enabling reversible allene–alkyne tautomerizations. Under these conditions, the thermodynamically favored terminal alkyne is formed via the 'zipper' shift, driven by conjugation and stability of the final C≡C at the chain end."}
